US04044021
1-Phenyl-4-imino-3-methyl-2-oxoimidazolidine
To 0.4 g. of 1-phenyl-4-amino-2-oxo-3-imidazoline was added 1 ml. of dimethyl sulfate. This mixture was slowly heated to 160° C., over a 45-minute period. The reaction mixture was put onto the vacuum pump and warmed to 90° C. to remove excess dimethyl sulfate. To the reaction was added 10 ml. of absolute alcohol giving a white solid. This material, 400 mg., was filtered and dried. This solid material was then added to water where it rapidly dissolved giving an acidic solution. This indicates the desired compound had precipitated from ethanol as the methyl sulfuric acid salt. Addition of 5N sodium hydroxide precipitated the desired product; after filtering and drying, 260 mg. (61%) of 1-phenyl-4-imino-3-methyl-2-oxoimidazolidine was obtained. This material was then recrystallized from acetone to give pure product, m.p. 156°-158° C. The mass spectrum of the compound gave a parent peak at m/e 189.

reactant | 1-phenyl-4-amino-2-oxo-3-imidazoline | C1(=CC=CC=C1)N1C(N=C(C1)N)=O | C9H9N3O
reactant | dimethyl sulfate | S(=O)(=O)(OC)OC | C2H6O4S
product | 1-Phenyl-4-imino-3-methyl-2-oxoimidazolidine | C1(=CC=CC=C1)N1C(N(C(C1)=N)C)=O | C10H11N3O
